US06825212B2
Preparation of 3-[(4-Fluorophenyl)thio]-1H-pyrrolo[2,3-b]pyridine
A solution of 3-iodo-1H-pyrrolo[2,3-b]pyridine (4.0 g, 16.4 mmol) in DMF is treated with 4-fluorobenzenethiol (2.09 mL, 19.7 mmol), potassium carbonate (3.40 g, 24.6 mmol), and copper iodide (4.21 g, 22.1 mmol). The reaction mixture is heated at 65° C. for 4 h, cooled, diluted with conc. aqueous NH4OH and extracted with ethyl acetate. The extracts are combined, washed with brine, dried over MgSO4 and concentrated in vacuo. Chromatography (1:50 methanol:CH2Cl2) of the residue, followed by methanol/H2O crystallization affords the title compound as an off-white solid, 3.56 g, mp 183-184° C., characterized by mass spectral and NMR analyses.

reactant | 3-iodo-1H-pyrrolo[2,3-b]pyridine | 16.4 mmol, 4.0 g | IC1=CNC2=NC=CC=C21 | C7H5IN2
reactant | 4-fluorobenzenethiol | 19.7 mmol, 2.09 mL | FC1=CC=C(C=C1)S | C6H5FS
reactant | potassium carbonate | 24.6 mmol, 3.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | NH4OH | [NH4+].[OH-]
catalyst | copper iodide | 22.1 mmol, 4.21 g | [Cu](I)I
product | 3-[(4-Fluorophenyl)thio]-1H-pyrrolo[2,3-b]pyridine | FC1=CC=C(C=C1)SC1=CNC2=NC=CC=C21 | C13H9FN2S
